US05891909
a) 5-Methyl-3-(2-nitrophenylsulfonyloxy)phenol
Orcinol monohydrate (4.27 g, 30.0 mmol) and 2-nitrobenzenesulfonyl chloride (6.65 g, 30.0 mmol) were mixed in saturated aqueous NaHCO3 (100 mL) and diethyl ether (100 mL). The biphasic mixture was stirred vigorously at ambient temperature overnight. The reaction mixture was diluted with water (150 mL) and extracted into ethyl acetate (3×100 mL). The organic phase was washed with brine (2×100 mL) and dried over Na2SO4. After removing the solvent in vacuo, the residue was purified by flash column chromatography (dichloromethane to 5% ethyl acetate in dichloromethane) to give the title compound as a pale yellow solid (6.10 g, 73%). 1H-NMR (300 MHz, CDCl3) δ 8.09 (d, J=7.8 Hz, 1H), 7.85 (m, 2H), 7.71 (m, 1H), 6.62 (s, 1H), 6.59 (s, 1H), 6.51 (s, 1H), 5.06 (s, 1H), 2.26 (s, 3H).

reactant | Orcinol monohydrate | 30.0 mmol, 4.27 g | O.C1(=CC(O)=CC(C)=C1)O
reactant | 2-nitrobenzenesulfonyl chloride | 30.0 mmol, 6.65 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | water | 150 mL | O | H2O
product | 5-Methyl-3-(2-nitrophenylsulfonyloxy)phenol | 6.10 g, 73% | CC=1C=C(C=C(C1)O)OS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C13H11NO6S
